US09085576B2
Potassium carbonate (1.10 g, 0.0081 mol) was added to a stirred solution of 6-chloro-5-methylpyridine-3-yl acetate (750 mg, 0.004 mol) in MeOH (15 mL) at RT. The reaction mixture was stirred for 1 h at ambient temperature. The reaction mixture was concentrated under reduced pressure and the residue was diluted with minimum amounts of water and neutralized with 1N HCl (15 mL). After neutralization, the solution was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated to give 6-chloro-5-methylpyridine-3-ol as a off white solid (500 mg, 89%). MS m/z=143.01 [M+H]+.

reactant | Potassium carbonate | 0.0081 mol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-5-methylpyridine-3-yl acetate | 0.004 mol, 750 mg | C(C)(=O)OC=1C=NC(=C(C1)C)Cl | C8H8ClNO2
solvent | MeOH | 15 mL | CO | CH4O
product | 6-chloro-5-methylpyridine-3-ol | ClC1=C(C=C(C=N1)O)C | C6H6ClNO
